US04379154
A solution of pyrid-3-yl-methyl 3-chloropropyl sulphide (59 g) in anhydrous tetrahydrofuran (75 cc) is added dropwise, in the course of 15 minutes and whilst keeping the temperature below 32° C. to a solution of potassium tert.-butoxide (50.8 g) in a mixture of anhydrous hexamethylphosphorotriamide (77 cc) and anhydrous tetrahydrofuran (410 cc). After stirring for 1 hour at a temperature of about 20° C. the reaction mixture is added to a mixture of distilled water (750 cc) and diethyl ether (420 cc). After decantation, the aqueous phase is re-extracted with diethyl ether (200 cc). The combined ether phases are washed three times with distilled water (2100 cc in total), dried over anhydrous magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 45° C. 2-(Pyrid-3-yl)-tetrahydrothiophen (30 g) is thus obtained in the form of a brown oil.

reactant | pyrid-3-yl-methyl 3-chloropropyl sulphide | 59 g | ClCCCSCC=1C=NC=CC1 | C9H12ClNS
reactant | potassium tert.-butoxide | 50.8 g | CC(C)([O-])C.[K+]
reactant | hexamethylphosphorotriamide | 77 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | water | 750 cc | O | H2O
solvent | tetrahydrofuran | 75 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 410 cc | O1CCCC1 | C4H8O
solvent | diethyl ether | 420 cc | C(C)OCC | C4H10O
product | 2-(Pyrid-3-yl)-tetrahydrothiophen | 30 g | N1=CC(=CC=C1)C1SCCC1 | C9H11NS
